US06479487B1
2-Chloro-6-[2-fluorophenylhydrazino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 2-fluorophenylhydrazine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 2-fluorophenylhydrazine | FC1=C(C=CC=C1)NN | C6H7FN2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[2-fluorophenylhydrazino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NNC1=C(C=CC=C1)F | C16H16ClFN6
